US04788185
2-(2-Chloroacetamidothiazol-4-yl)-2-(Z)-(2-chloroethoxyimino)acetic acid and N-chlorosuccinimide are reacted in the procedure of Reference Example 37 to give 2-(2-chloroacetamido-5-chlorothiazol-4-yl)-2(Z)-(2-chloroethoxyimino)acetic acid.

reactant | 2-(2-Chloroacetamidothiazol-4-yl)-2-(Z)-(2-chloroethoxyimino)acetic acid | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCCl | C9H9Cl2N3O4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 2-(2-chloroacetamido-5-chlorothiazol-4-yl)-2(Z)-(2-chloroethoxyimino)acetic acid | ClCC(=O)NC=1SC(=C(N1)/C(/C(=O)O)=N/OCCCl)Cl | C9H8Cl3N3O4S
